US04178293
α-Cyano-m-phenoxybenzyl alcohol (8.5 g, 38 mmol) is dissolved in 150 ml ether and cooled in an ice-bath. To the solution is slowly added methanesulfonyl chloride (5.4 g, 47 mmol) in 20 ml ether. After stirring about 20 minutes, triethylamine (4.76 g, 47 mmol) in 20 ml ether is added slowly and the mixture kept at 0° for 24 hours. Water is then added and the organic layer is separated, washed with 30% aqueous sodium bisulfite and water, dried and solvent removed under vacuum to yield α-cyano-m-phenoxybenzyl mesylate.

reactant | α-Cyano-m-phenoxybenzyl alcohol | 38 mmol, 8.5 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | methanesulfonyl chloride | 47 mmol, 5.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 47 mmol, 4.76 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | α-cyano-m-phenoxybenzyl mesylate | S(C)(=O)(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N | C15H13NO4S
